US07737149B2
4-(1,3,4,6,7,8,9,9a-Octahydropyrido[2,1-c]pyrazin-2-yl)-N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]benzamide
A 1M solution of NaHMDS in THF (1.13 ml, 1.05 mmol) was added to a stirred solution of tert-butyl 5-amino-3-[2-(3,5-dimethoxyphenyl)ethyl]-1H-pyrazole-1-carboxylate (244 mg, 0.7 mmol) and methyl 4-(1,3,4,6,7,8,9,9a-octahydropyrido[2,1-c]pyrazin-2-yl)benzoate (231 mg, 0.84 mmol) in THF (5 ml) at 0° C. under nitrogen, over 5 minutes. The reaction mixture was stirred for an additional 5 minutes at 0° C., then stirred at 20° C. for 18 h. An additional amount of tert-butyl 5-amino-3-[2-(3,5-dimethoxyphenyl)ethyl]-1H-pyrazole-1-carboxylate (80 mg, 0.23 mmol ) was added with 1M NaHMDS in THF (1.13 ml, 1.13 mmol). The reaction mixture was stirred for an additional 3 h. The reaction mixture was quenched with saturated ammonium chloride (20 ml) and extracted with ethyl acetate (3×20 ml). The extracts were washed with saturated brine solution (15 ml), dried (MgSO4) and evaporated to give crude product. The crude product was purified by reverse phase prep. HPLC (basic) using a 38-58% gradient of acetonitrile in water containing 1% 0.880 ammonium hydroxide. The clean fractions were taken and evaporated to afford the title compound as a white solid (32 mg, 9%); 1H NMR (500.13 MHz, DMSO-d6) δ 1.25 (1H, s), 1.62 (2H, t), 1.72 (1H, d), 1.93-1.95 (2H, m), 2.19-2.20 (1H, m), 2.44 (1H, s), 2.81 (3H, q), 2.87 (4H, s), 3.28 (1H, s), 3.69 (1H, s), 3.72 (6H, s), 3.77 (1H, d), 6.33 (1H, t), 6.42 (2H, d), 6.44 (1H, s), 6.96 (2H, d), 7.89 (2H, d), 10.29 (1H, s), 12.07 (1H, s). MS: m/z 490 (MH+).

reactant | NaHMDS | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | tert-butyl 5-amino-3-[2-(3,5-dimethoxyphenyl)ethyl]-1H-pyrazole-1-carboxylate | 0.7 mmol, 244 mg | NC1=CC(=NN1C(=O)OC(C)(C)C)CCC1=CC(=CC(=C1)OC)OC | C18H25N3O4
reactant | methyl 4-(1,3,4,6,7,8,9,9a-octahydropyrido[2,1-c]pyrazin-2-yl)benzoate | 0.84 mmol, 231 mg | C1N(CCN2C1CCCC2)C2=CC=C(C(=O)OC)C=C2 | C16H22N2O2
reactant | tert-butyl 5-amino-3-[2-(3,5-dimethoxyphenyl)ethyl]-1H-pyrazole-1-carboxylate | 0.23 mmol, 80 mg | NC1=CC(=NN1C(=O)OC(C)(C)C)CCC1=CC(=CC(=C1)OC)OC | C18H25N3O4
reactant | NaHMDS | 1M | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 1.13 mmol, 1.13 ml | C1CCOC1 | C4H8O
solvent | THF | 1.05 mmol, 1.13 ml | C1CCOC1 | C4H8O
product | 4-(1,3,4,6,7,8,9,9a-Octahydropyrido[2,1-c]pyrazin-2-yl)-N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]benzamide | 32 mg, 9% | C1N(CCN2C1CCCC2)C2=CC=C(C(=O)NC=1NN=C(C1)CCC1=CC(=CC(=C1)OC)OC)C=C2 | C28H35N5O3
